US08492549B2
3-[(R*)-1-((S)-6-Benzyloxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]-phenol
To a solution of methanesulfonic acid (R)-6-benzyloxy-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl ester (129 mg, 0.368 mmol) and (R*)-3-(piperidin-3-yl)phenol.HBr (100 mg, 0.387 mmol) in acetonitrile was added solid KI (40 mg) and NaHCO3 (98 mg 1.162 mmol). The mixture was heated under microwave irradiation at 150° C. for 1 h. Solid material was filtered and the solvent was evaporated under reduced pressure. The residue was dissolved to DCM and washed twice with water and brine. The organic phase was dried (Na2SO4), and evaporated in vacuo. The residue was purified by flash column chromatography (EtOAc/heptane) to give the desired product (66.2 mg).

reactant | methanesulfonic acid (R)-6-benzyloxy-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl ester | 0.368 mmol, 129 mg | C(C1=CC=CC=C1)OC1=CC2=C(O[C@H](CO2)COS(=O)(=O)C)C=C1 | C17H18O6S
reactant | (R*)-3-(piperidin-3-yl)phenol | N1C[C@H](CCC1)C=1C=C(C=CC1)O | C11H15NO
reactant | HBr | 0.387 mmol, 100 mg | Br | BrH
reactant | NaHCO3 | 1.162 mmol, 98 mg | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[(R*)-1-((S)-6-Benzyloxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]-phenol | 66.2 mg | C(C1=CC=CC=C1)OC1=CC2=C(O[C@H](CO2)CN2C[C@H](CCC2)C=2C=C(C=CC2)O)C=C1 | C27H29NO4
